US04070380
Dry HCl was passed into a solution of 5-(4-cyanophenyl)-2-furonitrile (10 g, 0.052 mole) in absolute methanol (100 ml) with stirring at 10°-15° for 3 hours until saturated. The product was collected by filtration; yield: 12 g (71%). A mixture of methyl 5-(4-[imino(methoxy)methyl]phenyl)-2-furimidate dihydrochloride (12 g, 0.036 mole), ammonium acetate (140 g) and absolute alcohol (550 ml) was refluxed for 6 hours and stored overnight at room temperature. The mixture was poured onto ice, adjusted to pH 8 with NH4OH and the solution concentrated to one half its volume. More H2O (800 ml) was added and the product was collected by filtration. After air drying, the product was dissolved in isopropanol, adjusted to pH 3 with ethanol-HCl and ether was added until cloudiness appeared. The solution was cooled and the solid was collected by filtration to yield 9 g (83%) of 5-( 4-amidinophenyl)-2-furamidine dihydrochloride monohydrate, m.p. > 300°.

reactant | HCl | Cl | ClH
reactant | 5-(4-cyanophenyl)-2-furonitrile | 0.052 mole, 10 g | C(#N)C1=CC=C(C=C1)C1=CC=C(O1)C#N | C12H6N2O
reactant | methyl 5-(4-[imino(methoxy)methyl]phenyl)-2-furimidate dihydrochloride | 0.036 mole, 12 g | Cl.Cl.N=C(C1=CC=C(C=C1)C1=CC=C(O1)C(OC)=N)OC
reactant | ammonium acetate | 140 g | C(C)(=O)[O-].[NH4+]
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 100 ml | CO | CH4O
product | 5-( 4-amidinophenyl)-2-furamidine dihydrochloride monohydrate | 9 g, 83% | O.Cl.Cl.C(N)(=N)C1=CC=C(C=C1)C1=CC=C(O1)C(=N)N | InChI=1S/C12H12N4O.2ClH.H2O/c13-11(14)8-3-1-7(2-4-8)9-5-6-10(17-9)12(15)16;;;/h1-6H,(H3,13,14)(H3,15,16);2*1H;1H2
